Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Demerol / Codeine / Tape / Morphine
 
Attending: ___
 
Chief Complaint:
Abdominal pain.
 
Major Surgical or Invasive Procedure:
None

None

 
History of Present Illness:
This is a ___ yo woman with h/o recurrent pancreatitis who p/w 
her typical pancreatitis flare (epigastric abd pain, nausea). 
Attempted liquid diet and PO dilaudid/fentanyl patch at home 
with no improvement so called GI and referred to the ED. She 
notes this seemed to start 4 days prior, after receiving the 
H1N1 vaccine. She denies vomiting despite the nausea, but notes 
eating or drinking causes abdominl pain. The pain is currently 
___, epigastric and bilateral upper quadrants without 
radiation. It is better with resting, worse with movement or 
eating. She has noticed sweats, which is unusual, but denies 
fevers or chills. No change in her BM's, no HA, visual change, 
cough, sob, cp, palpitations, dysuria, rash, ___ swelling. She is 
followed by Dr. ___ pancreatitis but has not seen him 
since ___.

In the ED: VS: 98.4 74 140/75 12 100% on RA. She was given 
dilaudid 1mg x2 and 1L NS. 

ROS: 10 point review of systems negative except as noted above.
 
Past Medical History:
1) Recurrent pancreatitis: Started after partial pancreatectomy 
in ___.  Then no recurrent until ___.  Was hospitalized in 
___ for pancreatitis, underwent an ERCP with sphincterotomy and 
stent placement in panc duct.  Further episodes in ___ 
with same ERCP again and stent extension.  In ___, another bout 
of acute pancreatitis, but ERCP this time showed no duct 
stenosis.  
2) Hemolytic anemia: reaction to Keflex, treated with 
splenectomy in ___.
3) s/p ccy in ___
4) s/p appy in ___
5) Asthma: mild intermittent, uses no meds at baseline
6) hypothyroidism
7) s/p tubal ligation
8) Depression
9) Right UE DVT in the setting of central line, on coumadin 
since ___, per PCP to continue on it at this time
 
Social History:
___
Family History:
Mother with diabetes, osteoporosis, hypertension, 
hypothyroidism, chronic pain.
 
Physical Exam:
On ADMISSION:
VS: T 98.9 HR 70 BP 114/80 RR 18 Sat 100% RA
Gen: Well appearing woman in NAD
Eye: extra-occular movements intact, pupils equal round, 
reactive to light, sclera anicteric, not injected, no exudates
ENT: mucus membranes moist, no ulcerations or exudates
Neck: no thyromegally, JVD: flat
Cardiovascular: regular rate and rhythm, normal s1, s2, no 
murmurs, rubs or gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi
Abd: Soft, tender to palpation in the epigastric area and 
bilateral upper quadrants without rebound or gaurding, non 
distended, no heptosplenomegally, bowel sounds present
Extremities: No cyanosis, clubbing, edema, joint swelling
Neurological: Alert and oriented x3, CN II-XII intact, normal 
attention, sensation normal, speech fluent
Integument: Warm, moist, no rash or ulceration  
Psychiatric: flat affect
Hematologic: no cervical or supraclavicular LAD
 
Pertinent Results:
Admit labs:
CBC: WBC-9.7 RBC-4.33 HGB-13.2 HCT-39.5 MCV-91 MCH-30.4 
MCHC-33.3 RDW-12.9
PLT COUNT-478; diff: NEUTS-59.0 ___ MONOS-6.4 EOS-2.1 
BASOS-0.7
BMP: GLUCOSE-101* UREA N-10 CREAT-0.8 SODIUM-140 POTASSIUM-4.2 
CHLORIDE-105 TOTAL CO2-27 ANION GAP-12
LFT: ALT(SGPT)-8 AST(SGOT)-20 ALK PHOS-88 TOT BILI-0.6 
LIPASE-63* TOT PROT-7.9
COAGS: ___ PTT-27.1 ___

MRCP ___: 1. Mild intrahepatic and pancreatic ductal 
dilatation, similar to CT appearance from ___, however, 
increased from MRCP ___. Though the changing 
appearance of biliary system is unusual, the dilation of the 
pancreatic and biliary systems without a mass lesion raises the 
possibility of an ampullary stricture. 
2. Small bowel and pancreatic head malrotation. Stable changes 
status post 
distal pancreatectomy. Prompt emptying of the pancreatic duct 
following 
secretin administration. 

 
Brief Hospital Course:
This is a ___ year old female with chronic pancreatitis, who 
presented with abdominal pain consistent with recurent 
pancreatitis.

1. Abdominal pain: Her pain was the same as with prior flares, 
and labs demonstrated a mild elevation of lipase. She was made 
NPO and given IV fluids and IV dilaudid (normally on 4 mg PO at 
home plus a fentanyl patch, which was continued). Of note, she 
is followed by Dr. ___ referred her to the pain clinic for 
consideration of spinal cord stimulator implant, however the 
patient elected not to have the procedure. The patient's diet 
was slowly advanced, and she was able to tolerate PO for ___ 
days prior to discharge.  She will see Dr. ___ in followup as 
an outpatient in ___ weeks.  She was discharged on a small 
number of dilaudid tablets until she sees her PCP ___ ___.  

2. DVT: She was diagnosed with an upper extremity 
catheter-associated DVT during her admission here in ___ and 
had completed more than 6 months of anticoagulation at the time 
of this admission. Her INR was normal and it appeared that she 
hadn't taken her coumadin in quite some time. After discussion 
with her PCP, ___ was formally discontinued.  She 
was continued on prophylaxis heparin SC only while in the 
hospital. 
 
Medications on Admission:
celexa 60mg daily
synthroid ___ daily
prilosec 20mg daily
ativan 0.5mg q6 prn ->very rare use for tremors
coumadin 2.5mg daily except 5mg on ___ daily
colace 100mg daily
senna 1 tab daily
dilaudid 4mg q4 prn -> at baseline ___ times daily, with flares 
up to 6 times daily
fentanyl 100mcg q72 hours
trazadone 100mg qhs prn insomnia
compazine 10mg q6 prn
multivitamin daily
 
Discharge Medications:
1. Citalopram 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
2. Levothyroxine 137 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for anxiety/tremor.  
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
7. Fentanyl 100 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
8. Trazodone 100 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.  
9. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. Hydromorphone 4 mg Tablet Sig: One (1) Tablet PO Q4H (every 
4 hours) as needed for pain: Please be aware that this 
medication can cause sedation.  Do NOT drive or operate heavy 
machinery while taking this medication.
Disp:*20 Tablet(s)* Refills:*0*
11. Compazine 5 mg Tablet Sig: ___ Tablets PO every six (6) 
hours as needed for nausea.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic pancreatitis
h/o DVT
Depression/anxiety
Hypothyroidism

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
As you know you had a flare of your chronic pancreatitis. We 
were able to get this under control with bowel rest and pain 
medications.  By the time of discharge, you were able to 
tolerate a regular diet for 2 days and take oral pain 
medications.
Please follow-up with your PCP and with Dr. ___ as detailed 
below. 
 
Followup Instructions:
___